US04537989
To a mixed solution of 8-oxo-cis-bicyclo[4,3,0]nona-3-ene (10 g), ethyl alcohol (100 ml), water (20 ml) and hydroxyamine hydrochloride (20 g), was added sodium hydroxide (37 g) at room temperature. After being stirred for one hour, the reaction mixture was poured into water. The crystals were gathered by filtration and washed with water. After drying, there was obtained 8-hydroxyimino-cis-bicyclo[4,3,0]nona-3-ene.

reactant | 8-oxo-cis-bicyclo[4,3,0]nona-3-ene | 10 g | O=C1C[C@@H]2CC=CC[C@@H]2C1 | C9H12O
reactant | ethyl alcohol | 100 ml | C(C)O | C2H6O
reactant | hydroxyamine hydrochloride | 20 g | Cl.ON
reactant | sodium hydroxide | 37 g | [OH-].[Na+]
solvent | water | O | H2O
solvent | water | 20 ml | O | H2O
product | 8-hydroxyimino-cis-bicyclo[4,3,0]nona-3-ene | ON=C1C[C@@H]2CC=CC[C@@H]2C1 | C9H13NO
